US06017923
Scheme F, step c: 4-(p-Methoxybenzyloxy)-1-(t-butyldimethylsilyloxy)butan-2-ol
Combine 4-(p-methoxybenzyloxy)-1,2-butandiol (42.43 g, 187.5 mmol) with DMF (700 mL) and cool in an ice bath before adding t-butyldimethylsilyl chloride (31.1 g, 206 mmol), triethylamine (31.4 mL, 225 mmol), and 4-dimethylaminopyridine (5.8 g, 47 mmol). Stir the mixture in the ice bath for 5 minutes and then allow to warm to ambient temperature and stir for sixteen hours. Filter and wash the filter cake with diethyl ether. Separate the aqueous layer and extract twice with ether. Combine the organic layers extract with water and saturated sodium chloride solution, dry over MgSO4, filter and concentrate in vacuo. Chromatograph on silica gel eluting with 2/8 ethyl acetate/hexane to give 51.4 g of the title compound the as an oil. Rf =0.25; silica gel, 2/8 ethyl acetate/hexane.

reactant | 4-(p-methoxybenzyloxy)-1,2-butandiol | 187.5 mmol, 42.43 g | COC1=CC=C(COCCC(CO)O)C=C1 | C12H18O4
reactant | t-butyldimethylsilyl chloride | 206 mmol, 31.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 225 mmol, 31.4 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 47 mmol, 5.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | 4-(p-Methoxybenzyloxy)-1-(t-butyldimethylsilyloxy)butan-2-ol | 51.4 g | COC1=CC=C(COCCC(CO[Si](C)(C)C(C)(C)C)O)C=C1 | C18H32O4Si
